US04400509
1.0 ml (4.8 mmoles) of hexamethyldisilazane was added to a refluxing mixture of 0.70 g (5.0 mmoles) of 4,6-dimethyl-2-mercaptopyrimidine, 10 mg (0.02 mmole) of tetraphenylimidodiphosphate and 25 ml of toluene and according to the procedure of Example 19, it was established that the calculated amount of ammonia had been evolved after refluxing for 1.5 hours. The mixture was then evaporated to dryness and the residue was dried to obtain 1.08 g (102%) of 4,6-dimethyl-2-(trimethylsilylthio)-pyrimidine.

reactant | hexamethyldisilazane | 4.8 mmoles, 1.0 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 4,6-dimethyl-2-mercaptopyrimidine | 5.0 mmoles, 0.70 g | CC1=NC(=NC(=C1)C)S | C6H8N2S
reactant | ammonia | N | H3N
catalyst | tetraphenylimidodiphosphate | 0.02 mmole, 10 mg | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(=O)NP(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C24H21NO6P2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 4,6-dimethyl-2-(trimethylsilylthio)-pyrimidine | 1.08 g, 102% | CC1=NC(=NC(=C1)C)S[Si](C)(C)C | C9H16N2SSi
